US08981084B2
6-(3,5-Dimethylpiperazin-1-yl)nicotinonitrile
This compound was synthesized from 2,6-dimethyl-piperazine and 6-chloronicotinonitrile as described for example 39 step 1 (90 mg, crude) and it was carried through without further purification. 1H NMR (400 MHz, CDCl3) δ 8.40 (d, J=2.0 Hz, 1H), 7.60 (dd, J=9.0 Hz, J=2.3 Hz, 1H), 6.60 (d, J=9.3 Hz, 1H), 4.27 (d, J=12.8 Hz, 2H), 2.96-2.88 (m, 2H), 2.52 (dd, J=12.4 Hz, J=10.9 Hz, 2H), 1.16 (d, J=6.3 Hz, 6H)

reactant | 2,6-dimethyl-piperazine | CC1NC(CNC1)C | C6H14N2
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(3,5-Dimethylpiperazin-1-yl)nicotinonitrile | CC1CN(CC(N1)C)C1=NC=C(C#N)C=C1 | C12H16N4
